US04005103
13 G of 2-cyclopropyl-4-(m-trifluoromethylphenyl)-5-methylpyrrolidine, 6 ml of acetyl chloride and 8 ml of triethylamine in 50 ml of anhydrous benzene is stirred at ambient temperature for 18 hours. Ice is added to the reaction mixture and the organic products are extracted with ether; the ethereal extract is washed with water, with 5% sodium hydroxide and then again with water, and dried over sodium carbonate to give 14.4 g of N-acetyl-2-cyclopropyl-4-(m-trifluoromethylphenyl)-5-methylpyrrolidine, which is dissolved in 50 ml of anhydrous tetrahydrofuran and added dropwise to a suspension of 2.9 g of lithium aluminium hydride in 75 ml of anhydrous tetrahydrofuran at reflux temperature. Refluxing is then continued for 4 hours. The excess double hydride is destroyed with cold ethyl acetate. After adding water and ice, the mixture is extracted with ether; the ethereal extract is washed with water and dried over sodium carbonate. After evaporation of the ether, vacuum distillation of the residue gives 9.7 g of N-ethyl-2-cyclopropyl-4-(m-trifluoromethylphenyl)-5-methylpyrrolidine as a liquid. Boiling point 0.3 = 115° C.

reactant | 2-cyclopropyl-4-(m-trifluoromethylphenyl)-5-methylpyrrolidine | C1(CC1)C1NC(C(C1)C1=CC(=CC=C1)C(F)(F)F)C | C15H18F3N
reactant | acetyl chloride | 6 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-acetyl-2-cyclopropyl-4-(m-trifluoromethylphenyl)-5-methylpyrrolidine | 14.4 g | C(C)(=O)N1C(CC(C1C)C1=CC(=CC=C1)C(F)(F)F)C1CC1 | C17H20F3NO
